US04061746
To 28.3 g (0.223 mole) of an enantholactam in 250 ml of benzene is added 34.1 g (0.223 mole) of phosphorous oxychloride over 30 minutes. The mixture is stirred at room temperature for 4 hours after which 41.2 g (0.223 mole) of dodecylamine is added. The reaction mixture is stirred at room temperature for 1 hour and refluxed for 4 hours then allowed to stand overnight. The resulting precipitate is washed with benzene, and the benzene wash is extracted with aqueous 2 N hydrochloric acid and combined with the precipitate. The combined fractions are made alkaline with 2N sodium hydroxide, extracted into ether-methylene chloride, dried and recrystallized from isopropyl alcohol to give 2-dodecyliminooctahydroazocine.

reactant | enantholactam | 0.223 mole, 28.3 g | C1(CCCCCCN1)=O | C7H13NO
reactant | phosphorous oxychloride | 0.223 mole, 34.1 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dodecylamine | 0.223 mole, 41.2 g | C(CCCCCCCCCCC)N | C12H27N
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 2-dodecyliminooctahydroazocine | C(CCCCCCCCCCC)N=C1NCCCCCC1 | C19H38N2
